### PR TITLE
feat: L'Hopital's rule from within a convex set

### PR DESCRIPTION
**Pull request by peakpoint**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Taylor.lean [hunk 1]
```diff
@@ -209,6 +212,82 @@ theorem hasDerivWithinAt_taylorWithinEval_at_Icc {f : ℝ → E} {a b t : ℝ} (
...
+  apply Finset.sum_congr rfl
+  intro i _
+  rw [← iteratedDerivWithin_succ' hs hx₀]
+  congr 1
+  field_simp [Nat.factorial_succ]
+  ring
+
+/-- **Taylor's theorem** as a limit. -/
+theorem taylor_tendsto {f : ℝ → ℝ} {x₀ : ℝ} {n : ℕ} {s : Set ℝ}
+    (hs : UniqueDiffOn ℝ s) (hsx₀ : s ∈ 𝓝 x₀) (hf : ContDiffOn ℝ n f s) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Taylor.lean:236]: You shouldn't need `hs` here: since `s` in a neighborhood of `x_0`, it contains a small interval around `x_0`, so there are is no issue of lack of differentiability there.

On the other hand, your version of the theorem does not apply to `[x_0, x_0+1]` for instance (i.e., it does not allow a one-sided version), which is a little bit sad. Does your proof work if you assume that `s` is convex and contains `x_0`, and that the limit is taken along ` 𝓝[s] x₀`? This would cover both the two-sided case that you are giving, but also the left and right one-sided versions.

Comment (peakpoint) [reply Mathlib/Analysis/Calculus/Taylor.lean]: I've got a proof for convex `s` now. Thanks for the suggestion!

File: Mathlib/Analysis/Calculus/Taylor.lean [hunk 2]
```diff
@@ -209,6 +212,85 @@ theorem hasDerivWithinAt_taylorWithinEval_at_Icc {f : ℝ → E} {a b t : ℝ} (
...
+  rw [Finset.sum_range_succ', Nat.cast_zero, zero_mul, zero_mul, mul_zero, zero_smul, add_zero]
+  apply Finset.sum_congr rfl
+  intro i _
+  rw [← iteratedDerivWithin_succ' hs hx₀]
+  congr 1
+  field_simp [Nat.factorial_succ]
+  ring
+
+/-- **Taylor's theorem** as a limit. -/
+theorem taylor_tendsto {f : ℝ → ℝ} {x₀ : ℝ} {n : ℕ} {s : Set ℝ}
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/Taylor.lean:235]: You are stating the theorem for functions `f : ℝ → ℝ`, but the same statement (with essentially the same proof) should hold for `f : ℝ → E` (in the statement, instead of dividing by `(x - x_0)^n`, you should just use the scalar action on `E`. If you want to have a specific version for `E = ℝ`, why not, but I think the main version should be the general one.

**Review by sgouezel — COMMENTED** [review]
I like the version for convex sets, thanks a lot! In the comments below, I also ask for a version for functions taking values in a general space, not just the real line, as it seems more natural and more general. What do you think?

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 3]
```diff
@@ -59,19 +59,19 @@ instance decidableMemIci [Decidable (a ≤ x)] : Decidable (x ∈ Ici a) := by a
 
 instance decidableMemIoi [Decidable (a < x)] : Decidable (x ∈ Ioi a) := by assumption
 
-theorem left_mem_Ioo : a ∈ Ioo a b ↔ False := by simp [lt_irrefl]
+theorem left_not_mem_Ioo : a ∉ Ioo a b := by simp
```
[the remark this answers is not in the document]
Comment (peakpoint) [reply Mathlib/Order/Interval/Set/Basic.lean:62]: I added the old statements back with deprecations

**Comment by RemyDegenne** [comment]
It would be nice to have this in Mathlib! @peakpoint do you think you will come back to this PR and address the review comments? If you don't have time for this, I would be willing to work on this PR.

**Comment by peakpoint** [comment]
> It would be nice to have this in Mathlib! @peakpoint do you think you will come back to this PR and address the review comments? If you don't have time for this, I would be willing to work on this PR.

@RemyDegenne I might not have time until late April so please feel free to work on this in the meantime! Sébastien told me he can handle generalizing it to vector spaces in a separate PR so you don't need to work on that (unless you want to, of course).

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by peakpoint** [comment]
Changes are now in #31408
